US04461770
A solution of 7.7 g of p-toluenesulfonyl chloride in 15 ml of pyridine is added dropwise in the course of 5 minutes to a solution, which is stirred at -10°, of 8.5 g of benzyl 3-pyridyl ketone oxime in 20 ml of pyridine. The reaction mixture is placed in a refrigerator for 24 hours and then poured onto ice/water. After some stirring and grinding, the oil which has separated out solidifies to crystals. These are filtered off with suction, washed with water and dried under a high vacuum. Benzyl 3-pyridyl ketone oxime p-toluenesulfonate is obtained and this is employed in the next stage without further purification.

reactant | p-toluenesulfonyl chloride | 7.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | benzyl 3-pyridyl ketone oxime | 8.5 g | N1=CC(=CC=C1)C(CC1=CC=CC=C1)=NO | C13H12N2O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Benzyl 3-pyridyl ketone oxime p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.N1=CC(=CC=C1)C(CC1=CC=CC=C1)=NO | InChI=1S/C13H12N2O.C7H8O3S/c16-15-13(12-7-4-8-14-10-12)9-11-5-2-1-3-6-11;1-6-2-4-7(5-3-6)11(8,9)10/h1-8,10,16H,9H2;2-5H,1H3,(H,8,9,10)
